US08912208B2
B. (4-{4-[5-(5-Fluoro-6-methoxy-pyridin-3-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester
To a solution of (6-bromo-pyridin-3-yl)-(5-fluoro-6-methoxy-pyridin-3-yl)-amine (0.17 g, 0.6 mmol, 1.0 equiv) and {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (0.22 g, 0.6 mmol, 1.0 equiv) in 15 Ml DME was added 1 Ml saturated sodium carbonate solution followed by 10 mg Pd(PPh3)4 catalyst. The reaction was then heated to 80° C. overnight. Removal of volatiles in vacuo followed by silica gel chromatography (20% EtOAc in hexanes) afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 0.93-1.08 (m, 1 H) 1.01 (d, J=2.78 Hz, 1 H) 1.31-1.52 (m, 3. H) 1.62 (s, 2 H) 1.69 (d, J=9.85 Hz, 4 H) 2.02 (d, J=7.07 Hz, 2 H) 3.81 (s, 3 H) 7.28 (d, J=8.34 Hz, 2 H) 7.58 (d, J=13.89 Hz, 1 H) 7.75 (d, J=8.34 Hz, 3 H) 7.70 (d, J=8.59 Hz, 1 H) 7.81 (d, J=2.27 Hz, 1 H) 7.89 (d, J=8.84 Hz, 1 H) 8.15 (s, 1 H) 9.04 (br. S., 1 H); (M+H)+ 450.3.

reactant | (6-bromo-pyridin-3-yl)-(5-fluoro-6-methoxy-pyridin-3-yl)-amine | 0.6 mmol, 0.17 g, 1.0 equiv | BrC1=CC=C(C=N1)NC=1C=NC(=C(C1)F)OC | C11H9BrFN3O
reactant | {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.6 mmol, 0.22 g, 1.0 equiv | COC(CC1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H31BO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | (4-{4-[5-(5-Fluoro-6-methoxy-pyridin-3-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NC=1C=NC(=C(C1)F)OC)=O | C26H28FN3O3
